US04713387
In 11 ml of N,N-dimethylformamide was dissolved 2.29 g of 3-[p-(3-chloro-1-hydroxy-2-methylpropyl)benzyl]pyridine, and to the resulting solution was added 1.36 g of sodium acetate, after which the resulting mixture was subjected to reaction under reflux for 2 hours. The solvent was removed by distillation under reduced pressure, and to the residue thus obtained were added 20 ml of a saturated aqueous sodium chloride solution and 20 ml of ethyl acetate. The organic layer was separated, washed with 10 ml of water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: chloroform] to obtain 910 mg (yield 36.7%) of colorless, oily 3-[p-(3-acetoxy-1-hydroxy-2-methylpropyl)benzyl]pyridine.

reactant | 3-[p-(3-chloro-1-hydroxy-2-methylpropyl)benzyl]pyridine | 2.29 g | ClCC(C(O)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C16H18ClNO
reactant | sodium acetate | 1.36 g | C(C)(=O)[O-].[Na+]
reactant | sodium chloride | 20 ml | [Cl-].[Na+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | 3-[p-(3-acetoxy-1-hydroxy-2-methylpropyl)benzyl]pyridine | yield 36.7% | C(C)(=O)OCC(C(O)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C18H21NO3
